US06080743
d2) 5-Bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline
A suspension of 0.249 g (1.0 mmol) of 2,3-dimethoxy-5-methyl-7-nitro-quinoxaline, 0.178 g (1 mmol) of N-bromosuccinimide and 0.016 g (0.1 mmol) of azo-isobutyronitrile in 3 ml of CCl4 is heated at reflux for 20 hours. The reaction mixture is washed with water and brine and concentrated using a rotary evaporator. Crystallization from ethyl acetate yields the title compound. TLC: hexane/ethyl acetate 6/1: Rf=0.63, 1H-NMR (CDCl3): δ 8.64 (d, J=3, 1H), 8.41 (d, J=3, 1H), 5.02(s, 2H), 4.27(s, 3H), 4.20 (s, 3H).

reactant | 2,3-dimethoxy-5-methyl-7-nitro-quinoxaline | 1.0 mmol, 0.249 g | COC1=NC2=CC(=CC(=C2N=C1OC)C)[N+](=O)[O-] | C11H11N3O4
reactant | N-bromosuccinimide | 1 mmol, 0.178 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline | BrCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H10BrN3O4
